US04797400
A mixture of 1-(2,3,4-trimethoxybenzyl)piperazine dihydrochloride (prepared by the method disclosed in Japanese Patent First Publication (Kokai) No. 32889/1973) (17.0 g), 4-methoxyphenyl chloroacetate (prepared by the method disclosed in U.S. Pat. No. 3,657,318) (10 g), potassium carbonate (27.6 g) and N,N-dimethylformamide (200 ml) is stirred at 50° C. for 4 hours. To the reaction mixture is added water (400 ml), and the mixture is extracted with chloroform (400 ml). The organic layer is washed with water twice and dried over anhydrous magnesium sulfate. The solvent is distilled off under reduced pressure to give crude 1-[(4-methoxyphenoxy)carbonylmethyl]-4-(2,3,4-trimethoxybenzyl)piperazine (free base) (20 g) as an oily substance. This crude free base (20 g) is dissolved in ethanol (100 ml) and thereto is added a solution of hydrochloric acid in ethanol (10% w/w) (50 ml) and the precipitated crystals are separated by filtration. The crystals are recrystallized from methanol to give 1-[(4-methoxyphenoxy)carbonylmethyl]-4-(2,3,4-trimethoxybenzyl)piperazine dihydrochloride (11.5 g) as colorless crystals.

reactant | 1-(2,3,4-trimethoxybenzyl)piperazine dihydrochloride | Cl.Cl.COC1=C(CN2CCNCC2)C=CC(=C1OC)OC
reactant | 4-methoxyphenyl chloroacetate | ClCC(=O)OC1=CC=C(C=C1)OC | C9H9ClO3
reactant | potassium carbonate | 27.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | water | 400 ml | O | H2O
product | 1-[(4-methoxyphenoxy)carbonylmethyl]-4-(2,3,4-trimethoxybenzyl)piperazine | 20 g | COC1=CC=C(OC(=O)CN2CCN(CC2)CC2=C(C(=C(C=C2)OC)OC)OC)C=C1 | C23H30N2O6
